US05633260
Preparation of 10-Hydroxy-7-Ethyl Camptothecin Using Method A
The 10-hydroxy camptothecin (800 mg; 2.2 mmol) is suspended in water (24 ml). Iron (II) sulfate heptahydrate (250 mg, 0.85 millimoles) is added to the suspension and then followed by the addition of propionaldehyde (3 ml). The reaction mixture is then cooled in an ice bath and concentrated sulfuric acid (1 ml) and trifluoroacetic acid (24 ml) are added. After stirring the homogeneous solution for 15 minutes, potassium persulfate (3.5 g; 6 mol equivalent) is added, and the mixture is slowly warmed to room temperature. After approximately 15 hours, the reaction mixture is diluted with water and the product is extracted using excess chloroform. The crude product is washed thrice with 5% methanol in ether and dried to obtain 806 mg of the desired compound.

reactant | 10-hydroxy camptothecin | 2.2 mmol, 800 mg | CC[C@@]1(C2=C(COC1=O)C(=O)N3CC=4C=C5C=C(C=CC5=NC4C3=C2)O)O | C20H16N2O5
reactant | propionaldehyde | 3 ml | C(CC)=O | C3H6O
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | trifluoroacetic acid | 24 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | potassium persulfate | 6 mol, 3.5 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
solvent | water | 24 ml | O | H2O
catalyst | Iron (II) sulfate heptahydrate | 0.85 millimoles, 250 mg | O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Fe+2]
product | 10-Hydroxy-7-Ethyl Camptothecin | 806 mg | CCC1=C2C=C(C=CC2=NC3=C1CN4C3=CC5=C(C4=O)COC(=O)[C@@]5(CC)O)O | C22H20N2O5
